US08865726B2
A mixture of (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (0.2 g, 1.77 mmol) in MeOH (9 mL) was treated with 4N hydrogen chloride (2.21 mL, 8.85 mmol) at 0° C. The mixture was allowed to warm up to ambient temperature and stirred for 1 hour. The mixture was concentrated and the residue treated with aqueous saturated NaHCO3/EtOAc. The organic layer was dried (phase separator silicone treated filter paper), concentrated. The residue was purified on silica gel (2-10% 7N ammonia in MeOH in DCM) to provide (S)-2-amino-2-(pyridin-3-yl)ethanol dihydrochloride (0.060 g, 16% yield) as a beige solid.

reactant | (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 1.77 mmol, 0.2 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C=1C=NC=CC1)N[S@@](=O)C(C)(C)C | C17H32N2O2SSi
reactant | hydrogen chloride | 8.85 mmol, 4N, 2.21 mL | Cl | ClH
solvent | MeOH | 9 mL | CO | CH4O
product | (S)-2-amino-2-(pyridin-3-yl)ethanol dihydrochloride | 0.060 g, 16% yield | Cl.Cl.N[C@H](CO)C=1C=NC=CC1 | InChI=1S/C7H10N2O.2ClH/c8-7(5-10)6-2-1-3-9-4-6;;/h1-4,7,10H,5,8H2;2*1H/t7-;;/m1../s1
